US07326791B2
N-[(1R)-2-allyloxy-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(2,5-dihydropyrrol 1-ylcarbonyl)-3-methylbenzamide
Prepared analogously to Example 1g from 3-methyl-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and (1R)-2-allyloxy-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 63%; Rf value: 0.60 (silica gel: dichloromethane/ethanol=9:1); C25H25ClN4O3 (464.951); mass spectrum: (M+H)+=465/467 (chlorine isotope) and (M−H)−=463/465 (chlorine isotope).

reactant | 3-methyl-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CC=CC1 | C13H13NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1R)-2-allyloxy-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | C(C=C)OC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)N | C12H14ClN3O
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | N-[(1R)-2-allyloxy-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(2,5-dihydropyrrol 1-ylcarbonyl)-3-methylbenzamide | Yield: 63% | C(C=C)OC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CC=CC2)C)=O | C25H25ClN4O3
